US04994482
A mixture of methyl [[6-(3,4,5-triphenyl-lH-pyrazol-1 -yl)hexyl]thio]acetate (1.01 g, 2 mmol), 3 N sodium hydroxide solution (2.1 mL, 6 mmol) and methanol (125 mL) was heated at reflux for 20 minutes. The solvent was removed and the residue treated with lN hydrochloric acid solution. Extraction with dichloromethane (three times) followed by drying of the organic phase over sodium sulfate and concentration in vacuo afforded an oil that crystallized on standing to give [[6-(3,4,5-triphenyl-lH-pyrazol-1-yl) hexyl]thio]acetic acid (0.94 g, 96%); m.p. =92°-97° C. MS(CI): m/e =471 (MH+).

reactant | methyl [[6-(3,4,5-triphenyl-lH-pyrazol-1 -yl)hexyl]thio]acetate | 2 mmol, 1.01 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCSCC(=O)OC | C30H32N2O2S
reactant | sodium hydroxide | 6 mmol, 3 N, 2.1 mL | [OH-].[Na+]
solvent | methanol | 125 mL | CO | CH4O
product | [[6-(3,4,5-triphenyl-lH-pyrazol-1-yl) hexyl]thio]acetic acid | 0.94 g, 96% | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCSCC(=O)O | C29H30N2O2S
